US06297239B1
Step E: Preparation of 4-Bromomethyl-2-hydroxy-benzonitrile
2-Hydroxy-4-hydroxymethylbenzonitrile (0.20 g, 1.34 mmol) was dissolved in DMF (5 mL)—CH2Cl2(5 mL) and treated with triphenylphosphine (0.53 g, 2.01 mmol) and carbon tetrabromide (0.67 g, 2.01 mmol) at ambient temperature with stirring. After 2 h the reaction mixture was partitioned between EtOAc (100 mL)—H2O (100 mL), the organic layer separated, dried (MgSO4), and filtered to give the title compound after silica gel chromatography (15% EtOAc/hexane to 25% EtOAc/hexane).

reactant | 2-Hydroxy-4-hydroxymethylbenzonitrile | 1.34 mmol, 0.20 g | OC1=C(C#N)C=CC(=C1)CO | C8H7NO2
reactant | triphenylphosphine | 2.01 mmol, 0.53 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 2.01 mmol, 0.67 g | C(Br)(Br)(Br)Br | CBr4
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromomethyl-2-hydroxy-benzonitrile | BrCC1=CC(=C(C#N)C=C1)O | C8H6BrNO
